### PR TITLE
[Merged by Bors] - feat(Algebra/Order): Locally Finite Linearly Ordered Abelian Groups

### PR DESCRIPTION
**Pull request by erdOne**
We prove that `ℤ` is the only Locally Finite Linearly Ordered Abelian Group.

We also move `OrderMonoidIso.toAdditive` and friends from `Mathlib/GroupTheory/ArchimedeanDensely.lean` to a new file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+          ← card_Ico_zero_add, ha, ← sub_eq_add_neg]
+      · simp [hb', neg_add_eq_sub, eq_sub_iff_add_eq, sub_eq_iff_eq_add,
+          ← Nat.cast_add, ← card_Ico_zero_add, hb, sub_add_eq_add_sub]
+    · have : ¬0 < a + b := by simpa using add_nonpos ha hb
+      simp [ha, hb, card_Ico_zero_add, Ico_eq_empty, this]
+
+variable (G) in
+/-- The canonical embedding (as an ordered monoid hom) from a linearly ordered cancellative
+group into `ℤ`. This is either surjective or zero. -/
+def LocallyFiniteOrder.orderAddMonoidHom :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean:98]: simps?

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+end Multiplicative
+
+variable {M G : Type*} [AddCancelCommMonoid M] [LinearOrder M] [IsOrderedAddMonoid M]
+    [LocallyFiniteOrder M] [AddCommGroup G] [LinearOrder G]
+    [IsOrderedAddMonoid G] [LocallyFiniteOrder G]
+
+variable (G) in
+/-- The canonical embedding (as a monoid hom) from a linearly ordered cancellative monoid into `ℤ`.
+This is either surjective or zero. -/
+def LocallyFiniteOrder.addMonoidHom :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean:70]: simps?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by kbuzzard** [comment]
Can you explain what's happening in this PR in the commit message?

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+import Mathlib.Order.WellQuasiOrder
+import Mathlib.Tactic.Abel
+
+/-!
+
+# Locally Finite Linearly Ordered Abelian Groups
+
+## Main results
+- `LocallyFiniteOrder.orderAddMonoidEquiv`:
+  Any nontrivial linearly ordered abelian group that is locally finite is isomorphic to `ℤ`.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean]:
```suggestion
  Any nontrivial linearly ordered additive abelian group that is locally finite is isomorphic to `ℤ`.
```

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 4]
```diff
@@ -0,0 +1,177 @@
...
+- `LocallyFiniteOrder.orderMonoidEquiv`:
+  Any nontrivial linearly ordered abelian group that is locally finite is isomorphic to `ℤ`.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean]:
```suggestion
  Any nontrivial linearly ordered abelian group that is locally finite is isomorphic to `Multiplicative ℤ`.
```

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 5]
```diff
@@ -0,0 +1,177 @@
...
+  simp [add_comm]
+
+end Multiplicative
+
+variable {M G : Type*} [AddCancelCommMonoid M] [LinearOrder M] [IsOrderedAddMonoid M]
+    [LocallyFiniteOrder M] [AddCommGroup G] [LinearOrder G]
+    [IsOrderedAddMonoid G] [LocallyFiniteOrder G]
+
+variable (G) in
+/-- The canonical embedding (as a monoid hom) from a linearly ordered cancellative monoid into `ℤ`.
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean]:
```suggestion
/-- The canonical embedding (as a monoid hom) from a linearly ordered cancellative additive monoid into `ℤ`.
```
(this might overflow the line)

**Comment by kbuzzard** [comment]
I would happily delegate this but I'm the author's PhD supervisor.

**Comment by YaelDillies** [comment]
I'm not :-)

maintainer delegate

File: Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean [hunk 6]
```diff
@@ -0,0 +1,205 @@
...
+    obtain ⟨b, rfl⟩ := add_left_surjective a b
+    suffices 0 ≤ orderAddMonoidHom G b ↔ 0 ≤ b by simpa
+    obtain hb | hb := le_total 0 b
+    · simp [orderAddMonoidHom, addMonoidHom, hb]
+    · simp [orderAddMonoidHom, addMonoidHom, hb]
+
+lemma LocallyFiniteOrder.orderAddMonoidEquiv_apply [Nontrivial G] (x : G) :
+  orderAddMonoidEquiv G x = addMonoidHom G x := rfl
+
+/-- Any linearly ordered abelian group that is locally finite is embeds to `Multiplicative ℤ`. -/
```
Comment (pechersky) [inline Mathlib/Algebra/Order/Monoid/LocallyFiniteOrder.lean]: here and below in all the docstrings, you have `is embeds`, I think you mean `embeds`

**Comment by bryangingechen** [comment]
Thanks!
bors r+
